US04118487
A. (2-Chlorophenyl)-(biphenyl-4-yl)-chloromethane
290 g (0.985 mol) of 2-chlorophenyl-(biphenyl-4-yl)-carbinol are dissolved in 1,000 ml of benzene and a solution of 144 ml (2 mols) of thionyl chloride in 400 ml of benzene is added slowly at 40° C. with stirring. The reaction mixture is heated under reflux for 15 hours. The solvent is distilled off in vacuo and the residue is stirred with 500 ml of petroleum ether. The crystals produced are filtered off and purified by recrystallization from ethanol. 36 g (89% of theory) of (2-chlorophenyl)-(biphenyl-4-yl)-chloromethane [alternatively named as α-(biphenyl-4-yl)-2l -chlorobenzyl chloride] of melting point 80° C. are obtained.

reactant | 2-chlorophenyl-(biphenyl-4-yl)-carbinol | 0.985 mol, 290 g | ClC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H15ClO
reactant | thionyl chloride | 2 mols, 144 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 1,000 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | (2-Chlorophenyl)-(biphenyl-4-yl)-chloromethane | ClC1=C(C=CC=C1)C(Cl)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H14Cl2
